US05962458
A mixture of 4-chloro-7-(4-pyridylmethoxy)quinazoline hydrochloride (350 mg, 1 mmol) and 2-fluoro-5-hydroxy-4-methylaniline (155 mg, 1.1 mmol), (prepared as described for the starting material in Example 13), in isopropanol (15 ml) was heated at reflux for 1 hour. The resulting precipitate was collected by filtration and purified by reverse phase HPLC using a gradient (0-75%) of methanol in water. Concentrated hydrochloric acid (0.5 ml) was added to the combined fractions of pure product and the solvent was removed by evaporation to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(4-pyridylmethoxy)quinazoline hydrochloride (140 mg, 28%).

reactant | 4-chloro-7-(4-pyridylmethoxy)quinazoline hydrochloride | 1 mmol, 350 mg | Cl.ClC1=NC=NC2=CC(=CC=C12)OCC1=CC=NC=C1
reactant | 2-fluoro-5-hydroxy-4-methylaniline | 1.1 mmol, 155 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(4-pyridylmethoxy)quinazoline hydrochloride | 140 mg, 28% | Cl.FC1=C(NC2=NC=NC3=CC(=CC=C23)OCC2=CC=NC=C2)C=C(C(=C1)C)O | InChI=1S/C21H17FN4O2.ClH/c1-13-8-17(22)19(10-20(13)27)26-21-16-3-2-15(9-18(16)24-12-25-21)28-11-14-4-6-23-7-5-14;/h2-10,12,27H,11H2,1H3,(H,24,25,26);1H
